US07091199B1
Preparation of 3-[3-(2-azocan-1-yl-ethoxy)-phenyl]-thieno[2,3-d]isoxazole (Scheme I, Compound 1)
The title compound is prepared from 3-[3-(2-bromo-ethoxy)-phenyl]-thieno[2,3-d]isoxazole, potassium carbonate, heptamethyleneimine and acetonitrile essentially as described above in example 40. Purity by LC/MS (APCI)=99%, [M+H]+=357.

reactant | 3-[3-(2-bromo-ethoxy)-phenyl]-thieno[2,3-d]isoxazole | BrCCOC=1C=C(C=CC1)C1=NOC2=C1SC=C2 | C13H10BrNO2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | C(C)#N | C2H3N
product | 3-[3-(2-azocan-1-yl-ethoxy)-phenyl]-thieno[2,3-d]isoxazole | N1(CCCCCCC1)CCOC=1C=C(C=CC1)C1=NOC2=C1SC=C2 | C20H24N2O2S
